US07867992B2
8-Chloro-1-cyclopropyl-N-(2,4-dichlorobenzyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxamide
15.0 g of 8-chloro-1-cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (for preparation see DE 3420743 or Y. Kimura et al., J. Med. Chem. (1994) 37:3344) are dissolved in 500 ml of DMF and 31.3 g of PyBOP and 10.6 g of 2,4-dichlorobenzylamine are added. After a day the solvent is removed and the residue is purified by flash chromatography on silica gel (toluene/ethyl acetate 95:5).

reactant | 8-chloro-1-cyclopropyl-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 15.0 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)F | C13H8ClF2NO3
reactant | PyBOP | 31.3 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2,4-dichlorobenzylamine | 10.6 g | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 8-Chloro-1-cyclopropyl-N-(2,4-dichlorobenzyl)-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxamide | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)NCC1=C(C=C(C=C1)Cl)Cl)=O)F)F | C20H13Cl3F2N2O2
